US07615568B2
A. 4-Methylthio-2-acetoxybenzoic acid
To a mixture of 4-methylthio-2-hydroxybenzoic acid (50.0 g, 272 mmol) and acetic anhydride (77.0 mL, 815 mmol) was added 36 N sulfuric acid (0.45 mL, 8.16 mmol) and the mixture was heated to 75° C. for 1 h. To the reaction mixture was added H2O (200 mL), and it was stirred for 18 h. A white precipitate was collected, triturated with dichloromethane, (100 mL), diluted with 20% Et2O/hexanes (300 mL), and filtered to give the title compound as a white solid (49 g, 80%).

reactant | 4-methylthio-2-hydroxybenzoic acid | 272 mmol, 50.0 g | CSC1=CC(=C(C(=O)O)C=C1)O | C8H8O3S
reactant | acetic anhydride | 815 mmol, 77.0 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | 8.16 mmol, 36 N, 0.45 mL | S(O)(O)(=O)=O | H2O4S
solvent | H2O | 200 mL | O | H2O
product | 4-Methylthio-2-acetoxybenzoic acid | 49 g, 80% | CSC1=CC(=C(C(=O)O)C=C1)OC(C)=O | C10H10O4S
